
* cell TOP
* pin GND
* pin VDD
.SUBCKT TOP GND VDD
* device instance $1 r0 *1 -383.58,137.719 NMOS
M$1 \$9 \$3 \$1 \$1 NMOS L=22.7368706394U W=113.489U AS=6635.333128P
+ AD=2121.58674P PS=339.849U PD=150.079U
* device instance $2 r0 *1 -315.59,137.719 NMOS
M$2 GND \$4 \$9 \$9 NMOS L=21.345343957U W=114.6495U AS=2121.58674P
+ AD=6943.866188P PS=150.079U PD=342.434U
* device instance $3 r0 *1 -406.829,-104.386 PMOS
M$3 \$1 \$3 VDD VDD PMOS L=20.8698165221U W=177.798U AS=10103.737577P
+ AD=5911.9923335P PS=466.062U PD=239.743U
* device instance $4 r0 *1 -320.368,-104.386 PMOS
M$4 VDD \$4 \$1 \$1 PMOS L=25.6770118891U W=175.455U AS=5911.9923335P
+ AD=11407.592793P PS=239.743U PD=480.952U
.ENDS TOP
